US07273878B2
To 7 ml of N,N-dimethylformamide were dissolved 0.92 g (4.0 mmol) of 6,6-difluoro-5-methyl-5-hexenyl methanesulfonate and 0.72 g (5.2 mmol) of 6-aminonicotinic acid, followed by the addition of 1.30 g (16 mmol) of sodium hydrogencarbonate and stirring at 100° C. for 3 hours. The reaction liquid was then poured in water and extracted with ethyl acetate. The organic layer was washed with water and a saturated saline solution in this order, followed by drying over anhydrous magnesium sulfate and concentration under reduced pressure. The residue was purified with silica gel column chromatography (ethyl acetate:hexane=1:1) to obtain 0.85 g (yield: 78%) of 6,6-difluoro-5-methyl-5-hexenyl 6-aminonicotinate.

reactant | N,N-dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
reactant | 6,6-difluoro-5-methyl-5-hexenyl methanesulfonate | 4.0 mmol, 0.92 g | CS(=O)(=O)OCCCCC(=C(F)F)C | C8H14F2O3S
reactant | 6-aminonicotinic acid | 5.2 mmol, 0.72 g | NC1=NC=C(C(=O)O)C=C1 | C6H6N2O2
reactant | sodium hydrogencarbonate | 16 mmol, 1.30 g | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
product | 6,6-difluoro-5-methyl-5-hexenyl 6-aminonicotinate | 0.85 g, yield: 78% | NC1=NC=C(C(=O)OCCCCC(=C(F)F)C)C=C1 | C13H16F2N2O2
